US08791235B2
c) Boc-Asp-vinyl phenyl sulfone
Sodium hydride (40 mg (60%), 1.09 eq) was added to a solution of diethyl phenylsulfonylmethylphosphonate (0.279 g, 1.09 eq) in dry THF (5.6 ml) at 0° C. The mixture was stirred for 20 minutes before adding, drop-wise, a solution of Boc-L-Asp(O-t-Bu)-H (0.24 g, 0.876 mmol) in 1.6 ml of THF. The mixture was stirred for 1.15 h at RT, then poured into a mix of ethyl acetate and ammonium chloride saturated solution (45/15 ml). The organic layer was dried over magnesium sulfate and the solvent was evaporated to dryness. The crude material was purified on silica gel (gradient: ethyl acetate/hexane) to make the desired compound with a high chemical yield.

reactant | Sodium hydride | 40 mg, 1.09 eq | [H-].[Na+]
reactant | diethyl phenylsulfonylmethylphosphonate | 0.279 g, 1.09 eq | C1(=CC=CC=C1)S(=O)(=O)CP(OCC)(OCC)=O | C11H17O5PS
reactant | Boc-L-Asp(O-t-Bu)-H | 0.876 mmol, 0.24 g | N([C@@H](CC(OC(C)(C)C)=O)C=O)C(=O)OC(C)(C)C | C13H23NO5
reactant | ammonium chloride | 15 ml | [Cl-].[NH4+]
solvent | THF | 5.6 ml | C1CCOC1 | C4H8O
solvent | THF | 1.6 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Boc-Asp vinyl phenyl sulfone | N([C@@H](CC(O)=O)C(=O)O)C(=O)OC(C)(C)C.C1(=CC=CC=C1)S(=O)(=O)C=C | InChI=1S/C9H15NO6.C8H8O2S/c1-9(2,3)16-8(15)10-5(7(13)14)4-6(11)12;1-2-11(9,10)8-6-4-3-5-7-8/h5H,4H2,1-3H3,(H,10,15)(H,11,12)(H,13,14);2-7H,1H2/t5-;/m0./s1
